US04254116
5,5-Dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-(2-propenyloxy)-5H-[1]benzopyrano[3,4-d]pyridine was prepared by reacting 5,5-dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5H-[1]benzopyrano[3,4-d]pyridine with 2-propenyl bromide following the procedure of Example 51.

reactant | 5,5-dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-hydroxy-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=C(C=C2)F)O)C=2C1=CC=NC2)C | C25H26FNO2
reactant | 2-propenyl bromide | C(C=C)Br | C3H5Br
product | 5,5-Dimethyl-8-[5-(4-fluorophenyl)-2-pentyl]-10-(2-propenyloxy)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC2=CC=C(C=C2)F)OCC=C)C=2C1=CC=NC2)C | C28H30FNO2
